US03991076
A solution of 56.3 g (0.28 mole) of phenacyl bromide in 100 ml. of dimethylformamide is added dropwise during 20 minutes under nitrogen to a cold stirred solution of 47.6 g (0.28 mole) of 5,6-dihydro-4-(1-pyrrolidinyl)-2H-thiopyran and 300 ml. of anhydrous dimethylformamide. After 2 hours, the solution is diluted with H2O and extracted with chloroform. The chloroform solution is washed with water, dried over magnesium sulfate and concentrated. The product is crystallized from ethanol to give crystals of 3-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one. This is recrystallized from ethanol to yield crystals; m.p. 101.5° to 103.5° C.

reactant | phenacyl bromide | 0.28 mole, 56.3 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 5,6-dihydro-4-(1-pyrrolidinyl)-2H-thiopyran | 0.28 mole, 47.6 g | N1(CCCC1)C1=CCSCC1 | C9H15NS
solvent | H2O | O | H2O
product | 3-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one | C(C(=O)C1=CC=CC=C1)C1CSCCC1=O | C13H14O2S
